US07517884B2
4-Chlorosulfonyl-indan-2(R,S)-carboxylic acid methyl ester (225 mg, 0.82 mmol) was added to a mixture of 1-(3-bromo-4-chlorophenyl)-cis-3,5-dimethylpiperazine (569 mg, 1.87 mmol), potassium carbonate (500 mg, 3.6 mmol), and acetonitrile (8 mL) at rt under nitrogen, and the reaction was heated at 55° C. for 3 h. After allowing the reaction to cool to rt, it was poured into water (40 mL) and extracted with dichloromethane (40 mL×2). The combined organic extracts were dried, filtered, concentrated, and purified by silica gel chromatography (9:1→3:1; hexanes:ethyl acetate) to give methyl 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2(R,S)-carboxylate: MS (ESI): 541.2 (M+H).

reactant | 4-Chlorosulfonyl-indan-2(R,S)-carboxylic acid methyl ester | 0.82 mmol, 225 mg | COC(=O)C1CC2=CC=CC(=C2C1)S(=O)(=O)Cl | C11H11ClO4S
reactant | 1-(3-bromo-4-chlorophenyl)-cis-3,5-dimethylpiperazine | 1.87 mmol, 569 mg | BrC=1C=C(C=CC1Cl)N1C[C@H](N[C@H](C1)C)C | C12H16BrClN2
reactant | potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | water | 40 mL | O | H2O
product | methyl 4-(4-(3-bromo-4-chlorophenyl)-cis-2,6-dimethylpiperazin-1-ylsulfonyl)-2,3-dihydro-1H-indene-2(R,S)-carboxylate | BrC=1C=C(C=CC1Cl)N1C[C@@H](N([C@@H](C1)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)OC)C | C23H26BrClN2O4S
